US07173151B2
[cis-3-(tert-Butyl-diphenylsilanyloxy)cyclohexyl]acetaldehyde
5.5 g of (cis-3-allylcyclohexyloxy)-tert-butyl-diphenylsilane are dissolved in 100 ml of diethyl ether, and 9.4 g of sodium periodate, dissolved in 100 ml of water, are added. At 0° C., 15 ml of an osmium tetroxide solution (2.5% by weight in tert-butanol) are added, and the mixture is stirred vigorously at room temperature. After 5 hours, a further 5 g of sodium periodate are added, and the mixture is stirred at room temperature for another 3 hours. The reaction mixture is then diluted by addition of 300 ml of methyl tert-buthyl ether and washed with saturated sodium thiosulfate solution. The organic phase is dried over magnesium sulfate and the solvent is then removed under reduced pressure. This gives 6 g of [cis-3-(tert-butyl-diphenylsilanyloxy)cyclohexyl]acetaldehyde as a yellow-brown oil. C24H32O2Si (380.61), MS(ESI): 381 (M+H+), Rf(n-heptane:ethyl acetate=5:1)=0.44.

reactant | (cis-3-allylcyclohexyloxy)-tert-butyl-diphenylsilane | 5.5 g | C(C=C)[C@H]1C[C@H](CCC1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C25H34OSi
reactant | sodium periodate | 9.4 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | sodium periodate | 5 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | water | 100 ml | O | H2O
catalyst | osmium tetroxide | 15 ml | [Os](=O)(=O)(=O)=O
product | [cis-3-(tert-Butyl-diphenylsilanyloxy)cyclohexyl]acetaldehyde | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)O[C@H]1C[C@H](CCC1)CC=O | C24H32O2Si
